US04954513
(c) t-Butyl 3-hydroxy-3-[2-(8-phenyloctyl)phenyl]propanoate
A solution of diisopropylamine (4.8 ml, 0.03 mole) in tetrahydrofuran/hexane (100 ml, 1/1) was cooled to 60° C. and n-butyllithium (2.5M solution in hexane, 13.6 ml, 0.03 mole) was added. This solution was stirred for 10 minutes followed by addition of t-butyl acetate (4.6 ml, 0.03 mole). The mixture was stirred for an additional 10 minutes followed by dropwise addition of a solution of 2-(8-phenyloctyl)benzaldehyde (10 gm, 0.03 mole) in tetrahydrofuran (25 ml). The whole was stirred first for 30 minutes at -50° C. and then for 30 minutes at 20° C. The reaction mixture was poured into aqueous acid and extracted twice with diethyl ether. The combined extracts were washed with 5% aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate, filtered and evaporated. Chromatography on silica gel using hexane-ethyl acetate (95/5) to elute gave the product as an oil. 90 MHz NMR (CDCl3) δ 1.29-1.52 (12H,m) 2.52-2.78 (6H,m) 5.39 (1H,dd) 7.10-7.60 (9H,m).

reactant | diisopropylamine | 0.03 mole, 4.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.03 mole, 2.5M, 13.6 ml | C(CCC)[Li]
reactant | t-butyl acetate | 0.03 mole, 4.6 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 2-(8-phenyloctyl)benzaldehyde | 0.03 mole, 10 gm | C1(=CC=CC=C1)CCCCCCCCC1=C(C=O)C=CC=C1 | C21H26O
solvent | tetrahydrofuran hexane | 100 ml | O1CCCC1.CCCCCC
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | t-Butyl 3-hydroxy-3-[2-(8-phenyloctyl)phenyl]propanoate | OC(CC(=O)OC(C)(C)C)C1=C(C=CC=C1)CCCCCCCCC1=CC=CC=C1 | C27H38O3
